US04831178
2-(1-Adamantyloxy)-3-tert-butyl-1,3,2-oxazaphospholidine
A 500 ml, three neck flask equipped with a thermometer, an additional funnel and a condenser topped with a nitrogen sweep is charged with 2.62 g (0.06 mol) of sodium hydride. The sodium hydride is washed with two 20 ml portions of hexane and finally suspended in 30 ml of tetrahydrofuran. To the resultant suspension is added dropwise a solution of 9.12 g (0.06 mol) of 1-adamantanol in 75 ml of THF at such rate to keep the reaction temperature between 20°-30° C. The resulting yellow solution is warmed to approximately 40° C. for 1 hour and then cooled in an ice bath. A solution of 10.9 g (0.06 mol) of 3-tert-butyl-2-chloro-1,3,2-oxazaphospholidine in 75 ml of THF is added and stirring continued for 16 hours at room temperature. The resulting cloudy mixture is filtered and the solvent evaporated under reduced pressure. The residue is treated with 200 ml of toluene and the resultant suspension is filtered. The filtrate is concentrated in vacuo to yield a thick syrup. Triturating with methanol gives 6.0 g (33.6%) of a white solid: m.p. 48°-50° C.

reactant | sodium hydride | 0.06 mol, 2.62 g | [H-].[Na+]
reactant | 1-adamantanol | 0.06 mol, 9.12 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | 3-tert-butyl-2-chloro-1,3,2-oxazaphospholidine | 0.06 mol, 10.9 g | C(C)(C)(C)N1P(OCC1)Cl | C6H13ClNOP
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 2-(1-Adamantyloxy)-3-tert-butyl-1,3,2-oxazaphospholidine | 6.0 g, 33.6% | C12(CC3CC(CC(C1)C3)C2)OP2OCCN2C(C)(C)C | C16H28NO2P
